US04454158
A solution of 1,1,2-tribromo-2-phenyl-3-phthalimidopropane (1.22 g) and DBU (0.50 g) in DMSO (50 ml) is heated at 85° for 4 hours. Work-up as described in Example 19 C gives 1,1-dibromo-2-phenyl-3-phthalimidopropene (0.71 g): colorless needles; m.p. 154°-155°;

reactant | 1,1,2-tribromo-2-phenyl-3-phthalimidopropane | 1.22 g | BrC(C(CN1C(C=2C(C1=O)=CC=CC2)=O)(C2=CC=CC=C2)Br)Br | C17H12Br3NO2
reactant | DBU | 0.50 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DMSO | 50 ml | CS(=O)C | C2H6OS
product | 1,1-dibromo-2-phenyl-3-phthalimidopropene | 0.71 g | BrC(=C(CN1C(C=2C(C1=O)=CC=CC2)=O)C2=CC=CC=C2)Br | C17H11Br2NO2
